US04748186
n-Butyl lithium, 2.7M, (25.04 ml, 0.0676 mole) was added to a stirred solution of 2,3-dihydro-2,2-dimethylbenzofuran (10.0 grams, 0.0676 mole) in tetrahydrofuran (75 ml) at -78° C. The reaction mixture was then stirred at 0° C. for two hours after which it was added to a cooled (-78° C.) solution of dimethylformamide (5.42 ml, 0.07 mole) in tetrahydrofuran (25 ml). Upon completion of addition, the reaction mixture was stirred at -78° C. for ten minutes and then warmed to ambient temperature. The reaction mixture was quenched with aqueous ammonium chloride (1M, 150 ml) and stirred for three hours at ambient temperature. The reaction mixture was extracted with diethyl ether (2×150 ml), and the combined extract was washed with a saturated aqueous solution of sodium chloride. The dried (magnesium sulfate) extract was concentrated under reduced pressure leaving a residue. This residue was distilled, yielding 3.72 grams of 2,3-dihydro-2,2-dimethylbenzofuran-7 -carboxaldehyde, b.p. 80°-83° C./0.2 mmHg. The NMR spectrum was consistent with the proposed structure.

reactant | n-Butyl lithium | C(CCC)[Li]
reactant | 2,3-dihydro-2,2-dimethylbenzofuran | 0.0676 mole, 10.0 grams | CC1(OC2=C(C1)C=CC=C2)C | C10H12O
reactant | dimethylformamide | 0.07 mole, 5.42 ml | CN(C=O)C | C3H7NO
solvent | tetrahydrofuran | 75 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
product | 2,3-dihydro-2,2-dimethylbenzofuran-7 -carboxaldehyde | 3.72 grams | CC1(OC2=C(C1)C=CC=C2C=O)C | C11H12O2
